US07244747B2
A mixture of 1-aminomethyl-4-propyl-pyrrolidin-2-one a27 (1 eq, 17.09 mmol, 2.67 g), 2-fluoro-nitrobenzene (1 eq, 17.09 mmol, 2.411 g, 1.802 ml) and triethylamine (1.1 eq, 18.8 mmol, 1.902 g, 2.62 ml) in dioxane (20 ml) was refluxed 48 h. After cooling, the crude mixture was filtrated and the dioxane was distilled under vacuum. The residue was purified by preparative chromatography on reverse phase to give (2-nitrophenyl){(2-oxo-4-propyl-pyrrolidin-1-yl)methyl}amine a28 (2.747 g, 58%). LC/MS (MH+): 278.

reactant | 1-aminomethyl-4-propyl-pyrrolidin-2-one | NCN1C(CC(C1)CCC)=O | C8H16N2O
reactant | 2-fluoro-nitrobenzene | 17.09 mmol, 1.802 ml, 2.411 g, 1 eq | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | triethylamine | 18.8 mmol, 2.62 ml, 1.902 g, 1.1 eq | C(C)N(CC)CC | C6H15N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | (2-nitrophenyl){(2-oxo-4-propyl-pyrrolidin-1-yl)methyl}amine | [N+](=O)([O-])C1=C(C=CC=C1)NCN1C(CC(C1)CCC)=O | C14H19N3O3
